US04019892
A solution containing 5.1g (0.025 mole) of 2,4-dichlorophenoxyacetaldehyde, 4.25g (0.028 mole) of mandelic acid, and 10.0g (0.07 mole) of boron trifluoride etherate in 250 ml of ether was allowed to stir for 2 hours at ambient temperature, washed with aqueous sodium carbonate and water, dried and concentrated. The residual solid was purified by silica chromatography to give 2.7g of 2-(2,4-dichloro-phenoxymethyl)-5-phenyl-1,3-dioxolan-4-one, trans isomer, having a melting point of 68°-71°.

reactant | 2,4-dichlorophenoxyacetaldehyde | 0.025 mole, 5.1g | ClC1=C(OCC=O)C=CC(=C1)Cl | C8H6Cl2O2
reactant | mandelic acid | 0.028 mole, 4.25g | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | boron trifluoride etherate | 0.07 mole, 10.0g | B(F)(F)F.CCOCC
solvent | ether | 250 ml | CCOCC | C4H10O
product | 2-(2,4-dichloro-phenoxymethyl)-5-phenyl-1,3-dioxolan-4-one | 2.7g | ClC1=C(OCC2OC(C(O2)=O)C2=CC=CC=C2)C=CC(=C1)Cl | C16H12Cl2O4
